US06821980B1
Starting from cyclopropanesulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester (294 mg; 0.6 mmol) and N-(4-bromo-2-methyl-phenyl)-2,2,2-trifluoroacetamide (282 mg; 1.0 mmol) (first step in 12 ml dioxane instead of dimethylformamide with bis-triphenylphosphine-palladium dichloride (56 mg; 0.08 mmol) and second step in dimethoxyethane (8 ml) and ethanol (2 ml) with tetrakis-triphenylphosphine-palladium (69 mg; 0.06 mmol)), 151 mg (30%) cyclopropanesulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-methyl-biphenyl-2-yl ester are obtained as a colourless powder.

reactant | cyclopropanesulphonic acid 5-(2,4-diamino-pyrimidin-5-ylmethyl)-3-ethoxy-2-iodo-phenyl ester | 0.6 mmol, 294 mg | NC1=NC=C(C(=N1)N)CC=1C=C(C(=C(C1)OS(=O)(=O)C1CC1)I)OCC | C16H19IN4O4S
reactant | N-(4-bromo-2-methyl-phenyl)-2,2,2-trifluoroacetamide | 1.0 mmol, 282 mg | BrC1=CC(=C(C=C1)NC(C(F)(F)F)=O)C | C9H7BrF3NO
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | dimethoxyethane | 8 ml | C(OC)COC | C4H10O2
product | cyclopropanesulphonic acid 4′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-3′-methyl-biphenyl-2-yl ester | 151 mg, 30% | NC1=C(C=C(C=C1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)C1CC1)C | C23H27N5O4S
